US07709645B2
To a solution of 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid (70 mg, 0.11 mmol), dimethylamine (2 N solution in THF, 0.11 mL, 0.22 mmol), diisopropylethylamine (20 mg, 0.16 mmol) in DMF (1 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate (60 mg, 0.16 mmol). The resulting solution was stirred at room temperature for 1 hour. The mixture was diluted with DMF (1 mL) and directly used in purification by mass-triggered reverse-phase HPLC to afford 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide as a white solid (3 mg, 7%). MS: m/z 396 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.90 (s, 6H), 5.21 (s, 2H), 6.49 (d, 1H), 6.79 (d, 1H), 7.10 (t, 1H), 7.30 (d, 2H), 7.33 (d, 1H), 7.43 (dd, 1H), 7.49 (d, 1H), 7.81 (d, 1H), 8.03 (d, 1H), 8.44 (m, 2H), 10.89 (s, 1H), 11.99 (s, 1H).

reactant | 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.11 mmol, 70 mg | NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC=C1C=CNC21 | C22H16N4O2
reactant | dimethylamine | 0.22 mmol, 2 N, 0.11 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.16 mmol, 20 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate | 0.16 mmol, 60 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 3 mg, 7% | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC=C1C=CNC21 | C24H21N5O
